US05989877
Effect of Heat Treatment of Broth Filtrate on the Purity of Lovastatin Crystals
The lovastatin acid in the extract was converted into the lactone by heating it to 90° C. for 3 hours (yield of conversion was 99.2%). After cooling to room temperature, the toluene was mixed with 80 ml of water, while the pH was adjusted to pH=10 with NaOH. After separation of the layers, the toluene layer was mixed again with 80 ml of fresh water, while the pH was adjusted to pH=4 with sulfuric acid. After separation of the layers, the toluene layer was treated with 0.1 g of active coal, Norit SX ultra. Subsequently the toluene solution was filtrated and further concentrated to 15 ml by evaporation. Cooling to -10° C. resulted in crystallization. The crystals were washed with 5 ml of cold toluene, and dried under vacuum at room temperature. In these crystals no 4-acetyl lovastatin could be detected, neither by TLC nor by proton NMR.

reactant | lovastatin acid | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)C | C24H38O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | Lovastatin | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
